US07244730B2
(Step 12) N1-Methyl-4-(azidomethyl)-5-cyano-2-ethoxybenzamide
After next dissolving N1-methyl-4-(bromomethyl)-5-cyano-2-ethoxybenzamide in dimethylformamide (100 ml), sodium azide (6 g) was added and the mixture was stirred at room temperature overnight. The reaction mixture was diluted with ethyl acetate and washed with water and brine, and then the organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated to yield the title compound (15.5 g).

reactant | N1-methyl-4-(bromomethyl)-5-cyano-2-ethoxybenzamide | CNC(C1=C(C=C(C(=C1)C#N)CBr)OCC)=O | C12H13BrN2O2
reactant | sodium azide | 6 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N1-Methyl-4-(azidomethyl)-5-cyano-2-ethoxybenzamide | 15.5 g | CNC(C1=C(C=C(C(=C1)C#N)CN=[N+]=[N-])OCC)=O | C12H13N5O2
